US05183925
861 mg of 4-(2-bromophenoxy)-butyric acid ethyl ester and 4.8 g of (E)-1,2-bis-(tri-n-butylstannyl)-ethylene (50%) are dissolved in 11 ml of toluene, mixed with 70 mg of tetrakis-(triphenylphosphine)-palladium and heated with stirring and under argon atmosphere for 1 hour to 120° C. (bath temperature). After cooling to room temperature, the reaction mixture is diluted with 9 ml of diethyl ether and mixed at 0° C. with a solution of 1.53 g of iodine in 7 ml of diethyl ether. The mixture is stirred for 2 hours at 0° C. and allowed to stand overnight in a refrigerator. The batch is concentrated by evaporation and the residue is chromatographed on silica gel with n-hexane/ethyl acetate=95/5. 810 mg of 4-[2-[(E)-2-iodovinyl]-phenoxy]-butyric acid ethyl ester is obtained as an oily crude product, which is further reacted without further purification.

reactant | 4-(2-bromophenoxy)-butyric acid ethyl ester | 861 mg | C(C)OC(CCCOC1=C(C=CC=C1)Br)=O | C12H15BrO3
reactant | (E)-1,2-bis-(tri-n-butylstannyl)-ethylene | 4.8 g | C(CCC)[Sn](\C=C\[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | iodine | 1.53 g | II | I2
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 9 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 7 ml | C(C)OCC | C4H10O
catalyst | tetrakis-(triphenylphosphine)-palladium | 70 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[2-[(E)-2-iodovinyl]-phenoxy]-butyric acid ethyl ester | 810 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C\I)=O | C14H17IO3
